* C:\Users\16474\Desktop\thesis\nvidia.asc
V1 Dataa 0 PWL file=prbs7_a.txt
Rs Vpada Vdrva 22.5
Rh1 Vpada Vina 190
Rh2 Vina Vrepa 250
Rch N004 Vpada 10.75
T1 N004 0 N005 0 Td=8p Z0=40
VDD N013 0 0.75
Rf Vina Vouta 1.2k
V2 N001 0 0.75
V3 N007 0 0.75
Rdrv Vdrva N003 22.5
Rrep Vrepa N011 124
V5 Datab 0 PWL file=prbs7_b.txt
Rs1 Vpadb Vdrvb 22.5
Rh3 Vpadb Vinb 190
Rh4 Vinb Vrepb 250
VDD1 N014 0 0.75
Rf1 Vinb Voutb 1.2k
V6 N002 0 0.75
V7 N008 0 0.75
Rdrv1 Vdrvb N006 22.5
Rrep1 Vrepb N012 124
A2 0 0 0 0 0 0 0 0 BUF .param Vhigh=0.75 Vlow=0
A1 Dataa 0 0 0 0 N009 0 0 BUF .param Vhigh=0.75 Vlow=0
A3 Datab 0 0 0 0 N010 0 0 BUF .param Vhigh=0.75 Vlow=0
M17 N001 Dataa N003 N001 PMOS l=45n w=1.0u
M1 N003 Dataa 0 0 NMOS l=45n w=1.0u
Rch1 Vpadb N005 10.75
M2 N007 N009 N011 N007 PMOS l=45n w=1.0u
M5 N013 Vina Vouta N013 PMOS l=45n w=1.0u
M6 N008 N010 N012 N008 PMOS l=45n w=1.0u
M10 N002 Datab N006 N002 PMOS l=45n w=1.0u
M11 N014 Vinb Voutb N014 PMOS l=45n w=1.0u
M3 N011 N009 0 0 NMOS l=45n w=1.0u
M4 Vouta Vina 0 0 NMOS l=45n w=1.0u
M7 N012 N010 0 0 NMOS l=45n w=1.0u
M8 N006 Datab 0 0 NMOS l=45n w=1.0u
M9 Voutb Vinb 0 0 NMOS l=45n w=1.0u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\16474\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 2540p
.model M1 nmos level=54 version=4.7 tox=1.0n nch=1 u0=250 vsat=1.2e7 vth0=0.35
+ rdsw=100 vdsat=0.1 cox=3e-2 cgso=1e-10 cgdo=1e-10
.model M3 nmos level=54 version=4.7 tox=1.0n nch=1 u0=250 vsat=1.2e7 vth0=0.35
+ rdsw=100 vdsat=0.1 cox=3e-2 cgso=1e-10 cgdo=1e-10
.model M4 nmos level=54 version=4.7 tox=1.0n nch=1 u0=250 vsat=1.2e7 vth0=0.35
+ rdsw=100 vdsat=0.1 cox=3e-2 cgso=1e-10 cgdo=1e-10
.model M7 nmos level=54 version=4.7 tox=1.0n nch=1 u0=250 vsat=1.2e7 vth0=0.35
+ rdsw=100 vdsat=0.1 cox=3e-2 cgso=1e-10 cgdo=1e-10
.model M8 nmos level=54 version=4.7 tox=1.0n nch=1 u0=250 vsat=1.2e7 vth0=0.35
+ rdsw=100 vdsat=0.1 cox=3e-2 cgso=1e-10 cgdo=1e-10
.model M9 nmos level=54 version=4.7 tox=1.0n nch=1 u0=250 vsat=1.2e7 vth0=0.35
+ rdsw=100 vdsat=0.1 cox=3e-2 cgso=1e-10 cgdo=1e-10
.model M17 pmos level=54 version=4.7 tox=1.0n nch=1 u0=90 vsat=1.0e7 vth0=-0.35
+ rdsw=100 vdsat=0.1 cox=3e-2 cgso=1e-10 cgdo=1e-10
.model M20 pmos level=54 version=4.7 tox=1.0n nch=1 u0=90 vsat=1.0e7 vth0=-0.35
+ rdsw=100 vdsat=0.1 cox=3e-2 cgso=1e-10 cgdo=1e-10
.model M22 pmos level=54 version=4.7 tox=1.0n nch=1 u0=90 vsat=1.0e7 vth0=-0.35
+ rdsw=100 vdsat=0.1 cox=3e-2 cgso=1e-10 cgdo=1e-10
.model M18 pmos level=54 version=4.7 tox=1.0n nch=1 u0=90 vsat=1.0e7 vth0=-0.35
+ rdsw=100 vdsat=0.1 cox=3e-2 cgso=1e-10 cgdo=1e-10
.model M19 pmos level=54 version=4.7 tox=1.0n nch=1 u0=90 vsat=1.0e7 vth0=-0.35
+ rdsw=100 vdsat=0.1 cox=3e-2 cgso=1e-10 cgdo=1e-10
.model M21 pmos level=54 version=4.7 tox=1.0n nch=1 u0=90 vsat=1.0e7 vth0=-0.35
+ rdsw=100 vdsat=0.1 cox=3e-2 cgso=1e-10 cgdo=1e-10
.backanno
.end
